data/core_train_final.csv
"CC(C)(CC1=CC=C(CC)C=C1)[C:1]([H:2])=O.CC(C)(CC2=CC=C(CC)C=C2)C(O[O:3])=O>>CC(C)(CC3=CC=C(CC)C=C3)[C:1]=O.CC(C)(CC4=CC=C(CC)C=C4)C(O[O:3][H:2])=O 3-3,2;2,1-3,2;2,1-1",Room Temperature,Propagation,abstraction
"CC1C[CH:20]1.[Cl:10][Cl:11]>>CC1C[CH:20]1[Cl:10].[Cl:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[He:23].[CH3:6][C:5]([CH3:7])([CH3:8])[N:3]([C:2](=[O:1])[C:9]1=[CH:10][C:11](=[CH:16][C:17](=[CH:22]1)[C:18]([F:19])([F:20])[F:21])[C:12]([F:13])([F:14])[F:15])[Br:4]>>[He:23].[CH3:8][C:5]([CH3:6])([CH3:7])[N:3][C:2](=[O:1])[C:9]1=[CH:22][C:17](=[CH:16][C:11](=[CH:10]1)[C:12]([F:15])([F:14])[F:13])[C:18]([F:19])([F:21])[F:20].[Br:4] 4,3-3; 4,3-4",Room Temperature,Initiation,homolyze
"[CH3:10].CC(C)(C)OC(=O)/[N:20]=[N:21]\C(=O)OC(C)(C)C>>CC(C)(C)OC(=O)[N:21][N:20]([CH3:10])C(=O)OC(C)(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH:13]1=[CH:12][CH:11]=[C:10]([CH:15]=[CH:14]1)[C:9]2[C:8](=[O:17])[C:7](=[O:18])[C:6]3=[C:4]([CH:3]=[C:2]([CH:20]=[C:19]3[O:16]2)[OH:1])[OH:5]>>[CH:13]1=[CH:12][CH:11]=[C:10]([CH:15]=[CH:14]1)[C:9]2=[C:8]([C:7](=[O:18])[C:6]3=[C:4]([CH:3]=[C:2]([CH:20]=[C:19]3[O:16]2)[OH:1])[OH:5])[O:17] 9-8,9; 8,17-8,9; 8,17-17",Room Temperature,Propagation,resonance
"[H:11][C:8]1([CH2:12][CH:13]2[CH2:14][CH:4]([C:2]2([CH3:1])[CH3:3])[C:5]1([CH3:6])[O:7])[O:9][O:10]>>[H:11][C:8]([CH2:12][CH:13]1[CH2:14][CH:4]([C:2]1([CH3:1])[CH3:3])[C:5](=[O:7])[CH3:6])[O:9][O:10] 7-5,7; 5,8-5,7; 5,8-8",Room Temperature,Propagation,retroaddition
"[H:10][C:9]1[CH:8]=[CH:7][CH:5]([CH:3]([CH:2]1[Cl:1])[Cl:4])[Cl:6].[Cl:11][Cl:12]>>[H:10][C:9]1([CH:8]=[CH:7][CH:5]([CH:3]([CH:2]1[Cl:1])[Cl:4])[Cl:6])[Cl:11].[Cl:12] 9-9,11;11,12-11,9;11,12-12",Room Temperature,Propagation,abstraction
"[H:3][C:2]([CH3:1])[CH:4]([CH3:6])[Cl:5].[Cl:7][Cl:8]>>[H:3][C:2]([CH3:1])([CH:4]([CH3:6])[Cl:5])[Cl:7].[Cl:8] 2-2,7;7,8-2,7;7,8-8",Room Temperature,Propagation,abstraction
"C1=CC=C(C=C1)[C:10](Cl)Cl.[Cl:20]>>C1=CC=C(C=C1)[C:10](Cl)(Cl)[Cl:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1CC=C1.[Br:20][Br:21].[He]>>[He].C1CC=C1.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"[H:20][C:21]1(CCC(C1)(C)C)CC.[Br:10]>>[H:20][Br:10].CC[C:21]1CCC(C1)(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][CH2:2][O:3][C:4](=[O:12])[O:5][O:6][C:7](=[O:11])[O:8][CH2:9][CH3:10].[Ar:13]>>[CH3:1][CH2:2][O:3][C:4](=[O:12])[O:5].[CH3:10][CH2:9][O:8][C:7](=[O:11])[O:6].[Ar:13] 5,6-6; 5,6-5",Room Temperature,Initiation,homolyze
"CC1(CC=C[CH:10]C1)C.[Br:20][Br:21]>>CC1(CC=C[CH:10](C1)[Br:20])C.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(=O)O[CH:21]=[CH2:20].C1CC(=O)N(C1)[CH:10]CC2COCCO2>>CC(=O)O[CH:21][CH2:20][CH:10](CC1COCCO1)N2CCCC2=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:14][O:13][CH:12]1[CH2:11][CH:5]([CH2:4][CH:3]=[C:2]1[CH3:1])[C:6]([CH3:7])([CH3:10])[O:8][O:9].[H:15][O:16][O:17]>>[H:14][O:13][CH:12]1[CH2:11][CH:5]([CH2:4][CH:3]=[C:2]1[CH3:1])[C:6]([CH3:7])([CH3:10])[O:8][O:9][H:15].[O:16][O:17] 9-9,15; 16,15-15,9; 15,16-16",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:6])[O:3][O:4][H:5]>>[H:1][C:2](=[O:3])[H:6].[H:5][O:4] 2-2,3; 3,4-2,3; 3,4-4",Room Temperature,Propagation,retroaddition
"[CH3:5][C:4]([CH3:6])([CH3:7])[C:3]1[CH:8]=[C:9]([CH:12]=[CH:13][C:2]1=[O:1])[O:10][CH3:11]>>[CH3:5][C:4]([CH3:6])([CH3:7])[C:3]1=[CH:8][C:9]([CH:12]=[CH:13][C:2]1=[O:1])[O:10][CH3:11] 3-3,8; 8,9-3,8; 8,9-9",Room Temperature,Propagation,resonance
"CC1(OCCO1)C2[CH:10]CC(C(C)=C)C2.CCCC[Sn:21](CCCC)([H:20])CCCC>>CC3(OCCO3)C4[CH:10]([H:20])CC(C(C)=C)C4.CCCC[Sn:21](CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"OC[C:10](C)C([O:20][OH:21])CO>>OC[C:10]1(C)C([O:20]1)CO.[OH:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CC[CH2:10])Cl.[Cl:20][Cl:21]>>CC(CC[CH2:10][Cl:20])Cl.[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[C:10](C)CC.[Cl:20][Cl:21]>>CC[C:10](C)(CC)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[CH:10]C(C)C.[Cl:20][Cl:21]>>CC[CH:10](C(C)C)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1CCC2CCCCC2C1.[Br:20][Br:21].[He]>>[He].C1CCC2CCCCC2C1.[Br:20].[Br:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"C/C=C/C=C/[CH2:10].[Br:20][Br:21]>>C/C=C/C=C/[CH2:10][Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCCCCCCCC[CH:10][CH:20]1CC[CH2:21]1>>[CH2:21]CC[CH:20]=[CH:10]CCCCCCCCCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:4][C:3]([H:5])([CH3:6])[C:2](=[O:1])[O:7][O:8][C:9](=[O:14])[C:10]([H:11])([H:12])[CH3:13].[Ar]>>[Ar].[H:4][C:3]([H:5])([CH3:6])[C:2](=[O:1])[O:7].[H:11][C:10]([H:12])([CH3:13])[C:9](=[O:14])[O:8] 7,8-7;7,8-8",Heat,Initiation,homolyze
